US08975265B2
4-{2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridin-7-yl}-pyrazole-1-carboxylic acid tert-butyl ester
A mixture of {1-[4-(7-bromo-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester (150 mg), [1-(tert-butoxycarbonyl)-1H-pyrazol-4-yl]boronic acid (123 mg), 1,1′-bis(diphenylphosphino)ferrocene-dichloropalladium(II) (24 mg) and sodium carbonate (92 mg) in dioxane (3.1 mL) and water (0.4 mL) was degassed, placed under an argon atmosphere and heated at 105° C. under microwave irradiation for 30 minutes. On cooling, a further portion of catalyst was added (24 mg) and the mixture heated for a further 30 minutes under microwave irradiation. On cooling, the reaction was partitioned between aqueous ammonium chloride solution and DCM and the organic phase washed with brine, dried and concentrated in vacuo to give the crude title compound (183 mg) which was used in the next step (deprotection of both Boc groups under the standard conditions given in Example 1.0) without further purification.

reactant | {1-[4-(7-bromo-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 150 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)Br)C1C1=CC=CC=C1)=O | C28H28BrN3O2
reactant | [1-(tert-butoxycarbonyl)-1H-pyrazol-4-yl]boronic acid | 123 mg | C(C)(C)(C)OC(=O)N1N=CC(=C1)B(O)O | C8H13BN2O4
reactant | sodium carbonate | 92 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 3.1 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.4 mL | O | H2O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene dichloropalladium(II) | 24 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2].Cl[Pd]Cl
product | 4-{2-[4-(1-tert-butoxycarbonylamino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyridin-7-yl}-pyrazole-1-carboxylic acid tert-butyl ester | 183 mg | C(C)(C)(C)OC(=O)N1N=CC(=C1)C1=CC=2N(C=C1)C(=C(N2)C2=CC=C(C=C2)C2(CCC2)NC(=O)OC(C)(C)C)C2=CC=CC=C2 | C36H39N5O4
